US04954162
A solution of 15.9 g (54 mmol) of 2-(2,4-difluoro- phenyl)-2-[1-(trifluoromethylmercapto)-cycloprop-1-yl]oxirane in 20 ml of absolute dimethylformamide is added dropwise with stirring to a mixture of 12 g (174 mmol) of 1,2,4-triazole and 1.4 g (12.5 mmol) of potassium tert.butylate in 30 ml of absolute dimethylformamide under a nitrogen atmosphere The reaction mixture is stirred at 100° C. for 8 hours. The solvent is then stripped off under reduced pressure, the residue is taken up in ethyl acetate, and the solution is washed twice with water and concentrated under reduced pressure after drying over sodium sulphate The residue is chromatographed on a silica gel column using chloroform as eluent. In this manner, 12.5 g (65 % of theory) of 1-(2,4-difluorophenyl)-1-hydroxy-2-(1,2,4-triazol-1-yl)-1-(1-trifluoromethylmercapto-cycloprop-1-yl)ethane of melting point 103° C. are obtained.

reactant | 2-(2,4-difluoro- phenyl)-2-[1-(trifluoromethylmercapto)-cycloprop-1-yl]oxirane | 54 mmol, 15.9 g | FC1=C(C=CC(=C1)F)C1(OC1)C1(CC1)SC(F)(F)F | C12H9F5OS
reactant | 1,2,4-triazole | 174 mmol, 12 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,4-difluorophenyl)-1-hydroxy-2-(1,2,4-triazol-1-yl)-1-(1-trifluoromethylmercapto-cycloprop-1-yl)ethane | 12.5 g, 65 % | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C1(CC1)SC(F)(F)F)O | C14H12F5N3OS
